US05068334
4-Ethyl-7,8-dihydro-2,5(1H,6H)-quinolinedione
Prepared from 4-ethyl-5,6,7,8-tetrahydro-cumarin- 5-one (prepared from ethyl 3-oxo-n-valeriate and cyclohexan-1,3dione) and methanolic ammonia in an autoclave for 1 hour at 140° C.

reactant | 4-ethyl-5,6,7,8-tetrahydro-cumarin- 5-one | C(C)C1=CC(OC=2CCCC(C12)=O)=O | C11H12O3
reactant | ammonia | N | H3N
product | 4-Ethyl-7,8-dihydro-2,5(1H,6H)-quinolinedione | C(C)C1=CC(NC=2CCCC(C12)=O)=O | C11H13NO2
